US04680300
10.0 g of 1,2-diphenyl-3-[6-(7-chloro-4-quinolinyl)hexyl]guanidine hydrochloride is dissolved in 500 ml water. An excess of aqueous sodium hydroxide is then added to the solution. The solution is extracted with methylene chloride and the extract is dried and evaporated to afford 1,2-diphenyl-3-[6-(7-chloro-4-quinolinyl)hexyl]guanidine.

reactant | 1,2-diphenyl-3-[6-(7-chloro-4-quinolinyl)hexyl]guanidine hydrochloride | 10.0 g | Cl.C1(=CC=CC=C1)NC(=NC1=CC=CC=C1)NCCCCCCC1=CC=NC2=CC(=CC=C12)Cl
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 500 ml | O | H2O
product | 1,2-diphenyl-3-[6-(7-chloro-4-quinolinyl)hexyl]guanidine | C1(=CC=CC=C1)NC(=NC1=CC=CC=C1)NCCCCCCC1=CC=NC2=CC(=CC=C12)Cl | C28H29ClN4
